US07985755B2
[4-(2,4-Diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]-(2,3-difluorophenyl)methanone (Example-024).
The amidation of 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (50 mg; 0.18 mmol) was carried out using 2,3-difluorobenzoyl chloride (65 mg; 0.37 mmol) via Method AA to yield 114 mg. (74% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.51 (q, J=8.8 Hz, 1H), 7.33 (m, 2H), 7.2 (m, 3H), 6.77 (d, J=8.4 Hz, 1H), 6.54 (d, J=8.0 Hz, 1H), 5.94 (br s, 2H), 4.54 (br d, J=12.8 Hz, 1H), 4.03 (d, J=6.0 Hz, 2H), 3.44 (d, J=14.0 Hz, 1H), 3.14 (t, J=12.4 Hz, 1H), 2.88 (m, 1H), 2.23 (s, 1H), 1.9 (d, J=12.4 Hz, 1H), 1.75 (d, J=10.8 Hz, 1H), 1.26 (m, 2H). MS m/z (ESI) 414 (M+H)+.

reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.18 mmol, 50 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 2,3-difluorobenzoyl chloride | 0.37 mmol, 65 mg | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
product | [4-(2,4-Diaminoquinazolin-5-yloxymethyl)piperidin-1-yl]-(2,3-difluorophenyl)methanone | 74% yield | NC1=NC2=CC=CC(=C2C(=N1)N)OCC1CCN(CC1)C(=O)C1=C(C(=CC=C1)F)F | C21H21F2N5O2
